US04275077
(a) 4-nitrobenzene sulfenyl chloride
Chlorine was introduced into a suspension of 30.8 g (0.10 mol) of di-(4-nitrophenyl)-disulfide in 200 ml of chloroform, while stirring, at a temperature of 25° to 30° C. until a clear solution was obtained and no more chlorine was taken up. Then stirring was continued for 3 hours at 40° to 45° C. Then, the solvent was distilled off in vacuo at a bath temperature of a maximum of 50° C. The remainder comprised oily 4-nitrobenzene sulfenyl chloride.

reactant | Chlorine | ClCl | Cl2
reactant | di-(4-nitrophenyl)-disulfide | 0.10 mol, 30.8 g | [N+](=O)([O-])C1=CC=C(C=C1)SSC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O4S2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-nitrobenzene sulfenyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)SCl | C6H4ClNO2S
